US06762321B2
A mixture of 3.60 g (18.9 mmol) of (5,6,7,8-tetrahydronaphthalen-2-yl)acetic acid, 3.38 g (28.4 mmol) of thionyl chloride and 40 ml of toluene was stirred at 50° C. for 30 minutes and then 80° C. for 2.5 hours, cooled and concentrated under reduced pressure. The residue was added to a mixture of 3.43 g (18.9 mmol) 2-(3,4-dimethoxyphenyl)ethylamine, 2.30 g (22.7 mmol) of triethylamine and 40 ml of tetrahydrofuran at 0° C. and kept at 0° C. for 30 minutes and at room temperature for 3 hours. Water and ethyl acetate were added to the reaction mixture and precipitated solid was collected with filtration. The obtained solid was dried to give 5.78 g of N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acetamide.

reactant | (5,6,7,8-tetrahydronaphthalen-2-yl)acetic acid | 18.9 mmol, 3.60 g | C1=C(C=CC=2CCCCC12)CC(=O)O | C12H14O2
reactant | thionyl chloride | 28.4 mmol, 3.38 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 18.9 mmol, 3.43 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | triethylamine | 22.7 mmol, 2.30 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acetamide | 5.78 g | COC=1C=C(C=CC1OC)CCNC(CC1=CC=2CCCCC2C=C1)=O | C22H27NO3
